US03949076
A mixture of 1-(3-oxobutyl)imidazole, ethylamine and ethanol is hydrogenated using platinum oxide as catalyst, by the procedure of Example 3, to give 1-(3-ethylaminobutyl)imidazole.

reactant | 1-(3-oxobutyl)imidazole | O=C(CCN1C=NC=C1)C | C7H10N2O
reactant | ethylamine | C(C)N | C2H7N
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-ethylaminobutyl)imidazole | C(C)NC(CCN1C=NC=C1)C | C9H17N3
